Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fevers/urinary retention
 
Major Surgical or Invasive Procedure:
Cystoscopic foley catheter placement, dilation of urethral 
stricture ___

 
History of Present Illness:
___ pmhx prostate Ca prostate cancer status post radiotherapy
over ___ years ago presenting to ___ with  UTI, urinary 
retention,
now transferred to ___ for urology consult now s/p dilation of
uretheral structure and foley placement in ED. ___ has a
longstanding history of urinary retention. He presents with
worsening urinary symptoms over the last several weeks.  He has
had difficulty initiating a urinary stream and has been 
straining
to void.  She developed extreme difficulty urinating only able 
to
void small amounts last night associated with flank pain, 
Chills,
sweats, fever. This morning he had an episode of hematuria that
prompted him to present to the ED. On presentation to ___ he had
a temperature to 101. He was in Afib with RVR. UA at ___ was
concerning for UTI. They were unable to place foley (after 6
attempts) and he was transferred to ___ for further 
management.

In the ED, initial VS were: 100.3 96 128/66  16  94% RA
Exam notable for: Abdomen soft but distended, minimal suprapubic
TTP
+ Left CVA tenderness
Labs showed: Grossly positive UA, WBC 17.1, Hb 12.8. Chemistry
panel was not obtained
Imaging showed:
Consults: Urology consulted
Scoped and dilated urethral stricture for catheter placement
-16fr council tip in place
-treatment of pyelo per medicine
-catheter to remain in place minimum ___ days
-___ has follow up scheduled with his urologist Dr. 
___ received:
Transfer VS were: 98.8 110 125/79 16  100% RA

On arrival to the floor, ___ reports he is feeling much
better and his foley is functioning well. He reports back pain,
chronic in nature. Has pain in scrotum, no flank pain. Denies
fevers, chills, abdominal pain, leg swelling. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI
 
Past Medical History:
Afib with RVR
Prostate cancer
HTN
Lower back pain
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 99.5PO 140 / 71Lying 84 18 97 Ra 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
CV: Irregular rhythm, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
FLANK: No CVA tenderness
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric

DISCHARGE PHYSICAL EXAM:
___ ___ Temp: 99.8 PO BP: 122/70 L Lying HR: 68 RR: 16 O2
sat: 91% O2 delivery: Ra 
General: Alert, oriented, no acute distress, foley in place  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: RRR, no murmurs appreciated
Abdomen: soft, non-tender, non-distended, bowel sounds present,
no CVAT
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: : Alert, moving all 4 extremities with purpose, face
symmetric
 
Pertinent Results:
ADMISSION LABS:

___ 03:54PM BLOOD WBC-17.1* RBC-4.00* Hgb-12.8* Hct-36.8* 
MCV-92 MCH-32.0 MCHC-34.8 RDW-14.3 RDWSD-47.8* Plt ___
___ 03:54PM BLOOD Neuts-83.7* Lymphs-7.1* Monos-8.1 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-14.28* AbsLymp-1.22 
AbsMono-1.39* AbsEos-0.01* AbsBaso-0.04
___ 03:54PM BLOOD Plt ___
___ 12:11AM BLOOD Glucose-109* UreaN-17 Creat-0.8 Na-139 
K-3.8 Cl-101 HCO3-26 AnGap-12
___ 12:11AM BLOOD Calcium-8.9 Phos-2.1* Mg-2.0
___ 03:54PM URINE Color-Yellow Appear-Cloudy* Sp ___
___ 03:54PM URINE Blood-LG* Nitrite-POS* Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG*
___ 03:54PM URINE RBC-103* WBC->182* Bacteri-MOD* 
Yeast-NONE Epi-0

DISCHARGE LABS:

___ 06:07AM BLOOD WBC-12.4* RBC-3.77* Hgb-11.8* Hct-34.7* 
MCV-92 MCH-31.3 MCHC-34.0 RDW-13.2 RDWSD-44.8 Plt ___
___ 06:07AM BLOOD Plt ___
___ 06:07AM BLOOD ___ PTT-26.7 ___
___ 06:07AM BLOOD Glucose-101* UreaN-12 Creat-0.8 Na-139 
K-3.6 Cl-101 HCO3-24 AnGap-14
___ 06:07AM BLOOD Calcium-8.7 Phos-2.5* Mg-1.9
___ 6:07 am BLOOD CULTURE
   Blood Culture, Routine (Pending): 

MICRO:
___ 3:54 pm BLOOD CULTURE
   Blood Culture, Routine (Pending):    No growth to date. 

___ 3:54 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    10,000-100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING REPORTS:
None
 
Brief Hospital Course:
___ year old gentleman with history of prostate cancer s/p 
radiotherapy/brachytherapy ___ years ago who presented to ___ 
with urinary retention and hematuria, now transferred to ___ 
for urology consult s/p dilation of uretheral stricture and 
foley placement in ED, found to have acute complicated UTI.

- Complicated E. Coli UTI +/- Pyelonephritis
___ with fever, flank pain, pyuria, leukocytosis and 
hematuria concerning for complicated urinary tract infection in 
setting of uretheral stricture. Prior culture data unknown. He 
was initially treated with ceftriaxone (___), then narrowed to 
ciprofloxacin 500 mg BID on ___ for planned ___nding ___. QTc was not prolonged. Urine culture at ___ 
speciated E. coli, sensitive to ciprofloxacin per report.

# Uretheral stricture s/p dilatation
# Urinary retention
Urinary retention in setting of urinary stricture now s/p 
dilation and cystoscopically placed Foley catheter by urology on 
___. Last episode was ___ years ago in setting of brachytherapy, 
no recent radiation per ___. Plan for foley to stay in for 
___ days from ___ with outpatient follow up with urologist. He 
was also continued on home tamsulosin 0.4 mg qAM during stay.

# Positive blood culture
Aerobic bottle BCx from ___ at ___ positive for coagulase 
negative staph ___ bottles). Further blood cultures drawn at 
___ were negative. He did receive 2 doses of vancomycin prior 
to speciation, but suspect most likely contamination. Discussed 
with ___ that he would be contacted should further blood 
cultures turn positive and that in that scenario he should seek 
medical care immediately.

Chronic issues:
# Atrial fibrillation with RVR
___ with reported RVR at OSH with rates in 140 in setting of 
acute infection. CHADS-2-VASC at least 4, anticoagulated on 
apixaban 2.5 mg BID as an outpatient. He was continued on 
fractionated doses of home metoprolol and diltiazem while on 
house. Of note, dosing of apixaban as outpatient will need to be 
clarified- only has age criteria for dose reduction hence 
unclear indication..

# HTN: Initially held home lisinopril 2.5mg given infection; 
restarted at time of discharge.

# Chronic back pain
Intermittently uses vicodin at home. Acetaminophen for pain 
control while in house.

# Prostate cancer s/p radiation therapy ___ years ago: Continue 
to monitor

TRANSITIONAL ISSUES:
====================
# COMPLICATED UTI
- Ciprofloxacin 500 mg BID through ___, total 10 day course

# URETERAL STRICTURE/URINARY RETENTION
- Foley to remain in place for at least ___ days per urology
- Outpatient follow up scheduled for ___ 1:45 ___ with Dr. 
___ urologist.

# ATRIAL FIBRILLATION
- Please clarify indication for dose reduced apixaban; otherwise 
was continued on home nodal agents with HR in 70-80s on 
discharge

# POSITIVE BLOOD CULTURE, LIKELY CONTAMINANT
- Please follow up on pending blood cultures

CODE STATUS: Full code limited trial
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. Tamsulosin 0.4 mg PO QHS 
3. Diltiazem Extended-Release 240 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Apixaban 2.5 mg PO BID 
6. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO DAILY:PRN 
BREAKTHROUGH PAIN 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every 12 hours 
Disp #*16 Tablet Refills:*0 
2.  Tamsulosin 0.4 mg PO QAM  
3.  Apixaban 2.5 mg PO BID  
4.  Diltiazem Extended-Release 240 mg PO DAILY  
5.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO DAILY:PRN 
BREAKTHROUGH PAIN  
6.  Lisinopril 2.5 mg PO DAILY  
7.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Complicated E. Coli UTI +/- Pyelonephritis
- Urethral stricture and urinary retention

Secondary:
- Atrial fibrillation
- Prostate cancer s/p radiotherapy   

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

You came to us because you had difficulty urinating as well as 
blood in your urine. We discovered that you have an ureteral 
stricture (A urethral stricture is a narrowing of a section of 
your urethra causing a blocked/reduced flow of urine), and a 
Foley catheter was placed by our urology doctors ___ ___. You 
were also treated with antibiotics for a urinary tract 
infection, first through your IV, then with oral medications.
One set of blood cultures at ___ also showed bacteria 
('coagulase negative staph'), which we think is most likely 
contaminant because it was only in one set and is a common skin 
bacteria. 

After you return home, you will need to do the following:
(1) Keep the catheter in for at least ___ days or as directed 
by your urologist (currently follow up is scheduled for 
___. We have arranged for visiting nursing to help you 
with management of your catheter.
(2) Continue taking oral antibiotics until ___.
(3) Follow up with your primary care doctor in 1 week of 
discharge.
(4) In discussion with you, we are going to discharge you home 
and follow up with you by phone. If further blood cultures turn 
positive you will need to go to the closest emergency department 
immediately.

Please take care, we wish you the very best!

Sincerely,
Your ___ Care team
 
Followup Instructions:
___